US06566362B2
A suspension of 2 g of ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate and 2.6 g of 1,3,3-trimethyl-6-azabicyclo[3.2.1]octane in 50 cm3 of dimethyl sulphoxide was heated, with stirring, at a temperature of 90° C. for 12 days. After cooling to 20° C., the mixture was poured into 200 cm3 of ice-cold water. The medium was extracted 3 times with 200 cm3 of dichloromethane, and the organic extracts were washed 3 times with 100 cm3 of water, and dried over sodium sulphate. After filtration and concentration under reduced pressure (5.2 kPa), the compound obtained was purified by chromatography on 160 g of silica gel (0.06-0.20 mm). Elution was carried out with 3 liters of a dichloromethane-ethanol mixture (97-3 by volume), collecting 200 cm3 fractions. The fractions between 1.65 and 3 liters were concentrated to dryness under reduced pressure (5.2 kPa). 0.9 g of ethyl 8-fluoro-4-methyl-1-oxo-9-(1,3,3-trimethyl-6-azabicyclo[3.2.1]oct-6-yl)-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate was obtained in the form of yellow crystals, which melted at 187° C.

reactant | ethyl 8,9-difluoro-4-methyl-1-oxo-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 2 g | FC1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1F | C16H12F2N2O3
reactant | 1,3,3-trimethyl-6-azabicyclo[3.2.1]octane | 2.6 g | CC12CC(CC(NC1)C2)(C)C | C10H19N
solvent | dimethyl sulphoxide | 50 cm3 | CS(=O)C | C2H6OS
product | ethyl 8-fluoro-4-methyl-1-oxo-9-(1,3,3-trimethyl-6-azabicyclo[3.2.1]oct-6-yl)-1,4-dihydrobenzo[f][1,7]naphthyridine-2-carboxylate | 0.9 g | FC1=CC2=C(C=3C(C(=CN(C3C=N2)C)C(=O)OCC)=O)C=C1N1C2CC(CC(C1)(C2)C)(C)C | C26H30FN3O3
